US08669361B2
To a solution of tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate (0.15 g, 0.48 mmol) in ethanol (10 mL) and water (1 mL) was added ammonium chloride (0.131 g, 2.44 mmol) and iron powder (0.109 g, 1.95 mmol). The mixture was heated at 100° C. for 1 hr. The mixture was cooled and filtered through celite and washed with EtOAc. The organic layer was washed with water, separated and dried over MgSO4. The solvent was removed under reduced pressure to yield tert-butyl 4-(4-amino-1-methyl-1H-pyrazol-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate as a brown oil (86 mg, 64%).

reactant | tert-butyl 4-(1-methyl-4-nitro-1H-pyrazol-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 0.48 mmol, 0.15 g | CN1N=CC(=C1C1=CCN(CC1)C(=O)OC(C)(C)C)[N+](=O)[O-] | C14H20N4O4
reactant | ammonium chloride | 2.44 mmol, 0.131 g | [Cl-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
catalyst | iron | 1.95 mmol, 0.109 g | [Fe] | Fe
product | tert-butyl 4-(4-amino-1-methyl-1H-pyrazol-5-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 86 mg, 64% | NC=1C=NN(C1C1=CCN(CC1)C(=O)OC(C)(C)C)C | C14H22N4O2
